US09403831B2
In a pressure tube reactor, ((S)-5-(1-((4-(5-bromopyrimidin-2-yl)morpholine-2-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)-2-fluorobenzonitrile (40 mg, 0.08 mmol) was added, and then K2CO3 (33 mg, 0.24 mmol) was added. Pd(dppf)2Cl2 (3 mg, 0.004 mmol) was further added, and then 1,4-dioxane (2 mL) and water (0.5 mL) were added. 4-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzyl)morpholine (12 g, 0.13 mmol) was added, and then stirred at room temperature under nitrogen gas for 10 minutes, followed by stirring at 85° C. for 2 hours. When the reaction was completed, the organic layer was extracted with ethyl acetate and water, and the extra water was removed by sodium sulfate, followed by concentration under reduced pressure. Column chromatography using 5% dichloromethane/methanol gave (S)-2-fluoro-5-(1-((4-(5-(3-fluoro-4-(morpholinomethyl)phenyl)-pyrimidin-2-yl)morpholine-2-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)benzonitrile (46 mg, 0.075 mmol) with a yield of 46%.

reactant | (S)-5-(1-((4-(5-bromopyrimidin-2-yl)morpholine-2-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)-2-fluorobenzonitrile | 0.08 mmol, 40 mg | BrC=1C=NC(=NC1)N1C[C@H](OCC1)CN1N=NC=2C1=NC(=CN2)C=2C=CC(=C(C#N)C2)F | C20H15BrFN9O
reactant | K2CO3 | 0.24 mmol, 33 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
reactant | 4-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzyl)morpholine | 0.13 mmol, 12 g | FC1=C(CN2CCOCC2)C=CC(=C1)B1OC(C(O1)(C)C)(C)C | C17H25BFNO3
catalyst | Pd(dppf)2Cl2 | 0.004 mmol, 3 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 0.5 mL | O | H2O
product | (S)-2-fluoro-5-(1-((4-(5-(3-fluoro-4-(morpholinomethyl)phenyl)-pyrimidin-2-yl)morpholine-2-yl)methyl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-6-yl)benzonitrile | 0.075 mmol, 46 mg, yield of 46% | FC1=C(C#N)C=C(C=C1)C1=CN=C2C(=N1)N(N=N2)C[C@@H]2CN(CCO2)C2=NC=C(C=N2)C2=CC(=C(C=C2)CN2CCOCC2)F | C31H28F2N10O2
